US08877782B2
6-[3-(4-Fluoro-phenyl)-isoxazol-4-ylmethoxy]-N-(2-hydroxy-1-hydroxymethyl-ethyl)-nicotinamide
As described for example 325, 6-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (200 mg, 0.61 mmol) was converted, using 2-amino-1,3-propandiol instead of rac-2-amino-1-propanol, to the title compound (117 mg, 49%) which was obtained as a white solid MS: m/e=388.2 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.61 mmol, 200 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)F)=O | C17H13FN2O4
reactant | 2-amino-1,3-propandiol | NC(CO)CO | C3H9NO2
product | 6-[3-(4-Fluoro-phenyl)-isoxazol-4-ylmethoxy]-N-(2-hydroxy-1-hydroxymethyl-ethyl)-nicotinamide | 117 mg, 49% | FC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)NC(CO)CO)C=C1 | C19H18FN3O5
